US05205962
0,6 M of n-butyllithium are added at -10° to 0,6 M of diisopropylamin in 600 ml THF. The mixture is cooled to -70°, 0,6 M of 2,6-difluoropyridin are added and after stirring for 15 minutes 0,6 M of trimethylborate are added at the same temperature. The mixture is allowed to warm up to -30°. Then the borate ester is hydrolysed with dilute HCl, the product extracted with ether, washed, dried and the solvent removed. Thus, 2,6-difluoro-pyridine-3-boronic acid is obtained.

reactant | n-butyllithium | 0,6 M | C(CCC)[Li]
reactant | diisopropylamin | C(C)(C)NC(C)C | C6H15N
reactant | 2,6-difluoropyridin | 0,6 M | FC1=NC(=CC=C1)F | C5H3F2N
reactant | trimethylborate | 0,6 M | COB(OC)OC | C3H9BO3
reactant | HCl | Cl | ClH
solvent | THF | 600 ml | C1CCOC1 | C4H8O
product | 2,6-difluoro-pyridine-3-boronic acid | FC1=NC(=CC=C1B(O)O)F | C5H4BF2NO2
